US07049438B2
A mixture of methyl 2-amino-4,6-dimethoxybenzoate (16 g), formamidine acetate (24 g) and 2-methoxyethanol (330 ml) was stirred and heated to reflux until all of the starting material had reacted. The mixture was evaporated and the residue was triturated under water (100 ml). The resultant solid was isolated, washed with water and dried under vacuum to give 5,7-dimethoxy-3,4-dihydroquinazolin-4-one (14.5 g); NMR Spectrum: (DMSOd6) 3.82 (s, 3H), 3.86 (s, 3H), 6.5 (s, 1H), 6.7 (s, 1H), 7.9 (s, 1H), 11.7 (br s, 1H).

reactant | methyl 2-amino-4,6-dimethoxybenzoate | 16 g | NC1=C(C(=O)OC)C(=CC(=C1)OC)OC | C10H13NO4
reactant | formamidine acetate | 24 g | C(C)(=O)O.C(=N)N
solvent | 2-methoxyethanol | 330 ml | COCCO | C3H8O2
product | 5,7-dimethoxy-3,4-dihydroquinazolin-4-one | 14.5 g | COC1=C2C(NC=NC2=CC(=C1)OC)=O | C10H10N2O3
